US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
A mixture of 58 mg of [4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester in 2 mL of methylene chloride was treated with 0.05 mL of 99% trifluoroacetic acid (TFA) at room temperature. The reaction mixture was allowed to stir at the same temperature for 1 hour. TLC showed starting material was still remaining so another 0.05 mL of TFA was added. Ten minutes later, the reaction was quenched with water and extracted with EtOAc three times. The organic layers were combined, washed sequentially with water, saturated aqueous sodium bicarbonate, water, brine, dried with magnesium sulfate, and the solvent evaporated in vacuo. The residue was purified by flash chromatography to yield 28 mg of the title compound as an oil.

reactant | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)OC\C=C\C)(C)C | C29H37NO4
reactant | trifluoroacetic acid | 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 28 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
